US06794377B2
Ethyl 3-[2-(tert-butoxycarbonylaminomethyl)phenyl]pyridine-2-carboxylate (Compound 16)
150 ml of 1,2-dimethoxyethane were aerated with argon, and 874 mg (0.75 mmol) of Pd(PPh3)4 and 3.45 g (15 mmol) ethyl 3-bromopyridine-2-carboxylate were added. After 10 min, 5.53 g (22.5 mmol) of 2-(tert-butoxycarbonylaminomethyl)phenylboronic acid and finally 15 ml of a 2M sodium carbonate solution were added. The mixture was heated to reflux for 18 h under argon, diluted with dichloromethane after cooling and washed with water. The organic phase was dried, concentrated and purified by chromatography on silica gel. 3.4 g (66%) of a viscous oil were obtained. MS (ES+): m/z=357 (M+1).

reactant | 1,2-dimethoxyethane | 150 ml | COCCOC | C4H10O2
reactant | ethyl 3-bromopyridine-2-carboxylate | 15 mmol, 3.45 g | BrC=1C(=NC=CC1)C(=O)OCC | C8H8BrNO2
reactant | 2-(tert-butoxycarbonylaminomethyl)phenylboronic acid | 22.5 mmol, 5.53 g | C(C)(C)(C)OC(=O)NCC1=C(C=CC=C1)B(O)O | C12H18BNO4
reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | Pd(PPh3)4 | 0.75 mmol, 874 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 3-[2-(tert-butoxycarbonylaminomethyl)phenyl]pyridine-2-carboxylate | 3.4 g, 66% | C(C)(C)(C)OC(=O)NCC1=C(C=CC=C1)C=1C(=NC=CC1)C(=O)OCC | C20H24N2O4
